US04029787
4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-N-methyl-2-furylmethylamide
103 Grams of 4-chloro-3-sulfamoylbenzoic acid-N-methyl-2-furylmethylamide (0.3 mole) were heated under reflux with 0.3 l of N-methylpiperazine for 5 hours. After the reaction solution had been poured into 2 l of water, the pH value of the mixture was adjusted to 8.0 with 5N HCl. After standing at room temperature for 3 days, the separated yellow resin had crystallized. The reaction product was suction-filtered, washed thoroughly with water and was recrystallized from a mixture of methanol and water.

reactant | 4-chloro-3-sulfamoylbenzoic acid-N-methyl-2-furylmethylamide | 0.3 mole | CN(C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)CC=1OC=CC1 | C13H13ClN2O4S
reactant | N-methylpiperazine | 0.3 l | CN1CCNCC1 | C5H12N2
reactant | HCl | 5N | Cl | ClH
solvent | water | 2 l | O | H2O
product | 4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-N-methyl-2-furylmethylamide | CN(C(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N)(=O)=O)=O)CC=1OC=CC1 | C18H24N4O4S
